US03943124
17β(3'-Morpholinopropoxycarbonyl)-5α-androstane-3,11-dione
Jones reagent (0.4 ml.) was added to a solution of 3α-hydroxy-17β(3'-morpholinopropoxycarbonyl)-5α-androstan-11-one (325 mg.) in acetone (5 ml.). After stirring (20 min.) the reaction mixture was diluted with chloroform and washed with aqueous 10% sodium bicarbonate and water. The chloroform solution was dried, filtered and evaporated to give a gum (238 mg.) which, after purification by preparative thick layer chromatography, afforded the pure title compound; νmax.CHBr3 1703 (-C=O) and 1720 cm-1 (-COOR), (-OH absent).

reactant | Jones reagent | 0.4 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 3α-hydroxy-17β(3'-morpholinopropoxycarbonyl)-5α-androstan-11-one | 325 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)OCCCN1CCOCC1 | C27H43NO5
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 17β(3'-Morpholinopropoxycarbonyl)-5α-androstane-3,11-dione | O1CCN(CC1)CCCOC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1C(C2)=O)=O | C27H41NO5
